US06248740B1
Production of 1-[6-[3-[4-(diphenylmethoxy)piperidino] propoxy]imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxylic acid
1.14 g of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 15 ml of N,N-dimethylacetamide; 140 mg of a 60% dispersion of sodium hydride in mineral oil was added, followed by stirring at room temperature under reduced pressure for 30 minutes. To the reaction mixture, 980 mg of isopropyl 1-(6-chloroimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxylate was added under ice cooling conditions, followed by stirring at constant temperature for 4 hours. Ice water was added, followed by saturation with sodium chloride and subsequent extraction with ethyl acetate-tetrahydrofuran (1:1); the extract was dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate. The desired fraction was collected and concentrated under reduced pressure to yield 496 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 1.14 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium hydride | [H-].[Na+]
reactant | isopropyl 1-(6-chloroimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxylate | 980 mg | ClC=1C=CC=2N(N1)C=C(N2)C2(CC2)C(=O)OC(C)C | C13H14ClN3O2
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
product | 1-[6-[3-[4-(diphenylmethoxy)piperidino] propoxy]imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxylic acid | 496 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C=C(N2)C2(CC2)C(=O)O)C2=CC=CC=C2 | C31H34N4O4
